US07713973B2
7-Chloro-5-methylsulfanyl-[1,2,4]triazolo[1,5-c]pyrimidine (181 mg, 0.91 mmol) was dissolved in MeOH (4 ml). 2N KOH (8 ml) was added and the mixture was stirred at reflux for 2 hours. The solvents were removed by a rotavap. The residue was added 4N HCl in dioxane and stirred for an hour before it was concentrated. Water was added and the mixture was extracted with DCM to give 7-Chloro-[1,2,4]triazolo[1,5-c]pyrimidin-5-ol (35 mg) as a solid. [M+H] calc'd for C5H3ClN4O, 171; found, 171.

reactant | 7-Chloro-5-methylsulfanyl-[1,2,4]triazolo[1,5-c]pyrimidine | 0.91 mmol, 181 mg | ClC1=CC=2N(C(=N1)SC)N=CN2 | C6H5ClN4S
reactant | KOH | 2N, 8 ml | [OH-].[K+]
solvent | MeOH | 4 ml | CO | CH4O
product | 7-Chloro-[1,2,4]triazolo[1,5-c]pyrimidin-5-ol | 35 mg | ClC1=CC=2N(C(=N1)O)N=CN2 | C5H3ClN4O
